US07893250B2
Presence of 5-methylcytosine
The slides produced with cells grown in presence of either Cd+Cr+H2O2 or 5-azacytidine, or sodium butyrate are incubated overnight at 4° C. in the presence of 30 μl of an anti-5 methylcytosine sheep antibody (Abcam, Ab1884) diluted 1/100 in PBS. The slides are washed once in PBS and then incubated for 15 seconds in the presence of 30 μl of NaOH 7×10−5 N. After washing with PBS, the slides are finally incubated 30 minutes in the presence of a donkey anti-sheep IgG antibody (southern Biotechnology Associates, Inc) diluted at a concentration of 0.1 μg 1 1×106 cells in PBS.

reactant | 5-azacytidine | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C(=O)N=C(N)N=C1 | C8H12N4O5
reactant | sodium butyrate | C(CCC)(=O)[O-].[Na+]
product | 5-methylcytosine | CC=1C(=NC(NC1)=O)N | C5H7N3O
